US07524840B2
(6-amino-1,3-benzodioxol-5-yl)-(2-chlorophenyl)-methanone (Xbb) was prepared by reacting 2-chlorobenzaldehyde with 0.020 moles of 3,4-methylendioxy aniline in a manner analogous to Example 1. MH+/Z=276.

reactant | 2-chlorobenzaldehyde | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | 3,4-methylendioxy aniline | 0.020 moles | C1OC=2C=C(N)C=CC2O1 | C7H7NO2
product | (6-amino-1,3-benzodioxol-5-yl)-(2-chlorophenyl)-methanone | NC=1C(=CC2=C(OCO2)C1)C(=O)C1=C(C=CC=C1)Cl | C14H10ClNO3
